US04025614
To a solution of 2.76 g. (0.02 mol) of m-nitroaniline in 5 ml. of pyridine cooled to 0° C. is added 3.52 g. (0.02 mol) of benzenesulfonyl chloride dropwise and the mixture is stirred for one hour at room temperature. The reaction mixture is decomposed with dilute hydrochloric acid and ice, and the solid filtered off to give m-(phenylsulfonamido)-nitrobenzene, m.p. 132°-134° C. The latter, 1.4 g. (0.005 mol), is dissolved in 100 ml. of ethanol, 300 mg. of 10% palladium-on-carbon is added and the mixture is hydrogenated in a Parr shaker. After hydrogen uptake has ceased, the catalyst is filtered off and the filtrate is used directly in the subsequent reaction. Thus the ethanolic solution (100 ml.) containing 1.2 g. (0.005 mol) of 3-phenylsulfonamidoaniline and 1.06 g. (0.005 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one is refluxed for one hour. The reaction mixture is concentrated and filtered to give 5-acetyl-4-hydroxy-3 -[1-(3-phenylsulfonamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 209° C.

reactant | hydrogen | [H][H] | H2
reactant | 3-phenylsulfonamidoaniline | 0.005 mol | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(N)C=CC1 | C12H12N2O2S
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.005 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-acetyl-4-hydroxy-3 -[1-(3-phenylsulfonamidophenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC=C1)NS(=O)(=O)C1=CC=CC=C1)O | C21H18N2O7S
